US07459448B2
7-(3-Amino-propyl)-9-chloro-2-(3,4-dimethoxy-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-40)
To a stirring solution of 2-{3-[9-chloro-2-(3,4-dimethoxy-phenylamino)-6-oxo-5,6-dihydrobenzo[b]pyrimido[4,5-d]azepin-7-yl]-propyl}-isoindole-1,3-dione (I-40-c) (51 mg, 0.09 mmol) in ethanol (1.5 mL) was added methylamine (40% by wt in H2O, 0.5 mL). After stirring for 2.5 h at room temperature, the solution was diluted with dichloromethane and washed with water. The organics were dried over magnesium sulfate and concentrated. Preparative HPLC gave I-40: MS Rt═1.32 min. m/z═454 (M+H).

reactant | 2-{3-[9-chloro-2-(3,4-dimethoxy-phenylamino)-6-oxo-5,6-dihydrobenzo[b]pyrimido[4,5-d]azepin-7-yl]-propyl}-isoindole-1,3-dione | 0.09 mmol, 51 mg | ClC=1C=CC2=C(N(C(CC3=C2N=C(N=C3)NC3=CC(=C(C=C3)OC)OC)=O)CCCN3C(C2=CC=CC=C2C3=O)=O)C1 | C31H26ClN5O5
reactant | methylamine | 0.5 mL | CN | CH5N
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-(3-Amino-propyl)-9-chloro-2-(3,4-dimethoxy-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | NCCCN1C2=C(C3=C(CC1=O)C=NC(=N3)NC3=CC(=C(C=C3)OC)OC)C=CC(=C2)Cl | C23H24ClN5O3
